US06559145B2
N-(4-chlorobenzyl)-7-iodo-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide [Y.4].
To a solution of 4-chlorobenzylamine (0.071 mL) in toluene (1.5 mL) at 0° C. is added trimethylaluminum (2M solution in toluene, 0.29 mL). After stirring the solution at 0° C. for 5 min, ethyl 7-iodo-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate (Preparation 2, 200 mg) is added. The solution is stirred at 0° C. for an additional 10 min, then allowed to stir at room temperature overnight. The reaction mixture is poured into 3 N HCl (7.5 mL) and water, then extracted with CH2Cl2 (3×). The combined organic layers are dried (Na2SO4), filtered, and concentrated to afford a solid. The impurities are removed by dissolving the crude product in CH2Cl2 and filtering the insoluble solid. The filtrated is concentrated to afford 148 mg (58%) of title compound as a yellow solid. Physical characteristics: m.p. 191-194° C.; 1H NMR (300 MHz, DMSO-d6) δ 9.36, 9.27, 9.03, 8.38, 7.68, 7.40, 4.57; IR (drift) 3319, 1683, 1637, 1612, 1560, 1541, 1507, 1478, 1347, 1339, 1295, 837, 792, 641, 625 cm−1; MS (ESI+) m/z 440 (M+H)+; Anal. found: C, 43.58; H, 2.48; N, 9.38.

reactant | 4-chlorobenzylamine | 0.071 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | trimethylaluminum | 2M, 0.29 mL | C[Al](C)C
reactant | ethyl 7-iodo-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate | 200 mg | IC=1C=CC=2N(C(C(=CN2)C(=O)OCC)=O)C1 | C11H9IN2O3
reactant | HCl | 3 N, 7.5 mL | Cl | ClH
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-(4-chlorobenzyl)-7-iodo-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxamide | 148 mg, 58% | ClC1=CC=C(CNC(=O)C2=CN=C3N(C2=O)C=C(C=C3)I)C=C1 | C16H11ClIN3O2
